US07279481B2
5-{4-[2-(5-Bromo-2-fluorophenyl)ethyl]-1-piperazinyl}-2-methylquinoline
The title compound was prepared in 95% yield from (5-bromo-2-fluorophenyl)acetaldehyde (0.98 g), 2-methyl-5-(1-piperazinyl)quinoline (0.51 g) and sodium triacetoxyborohydride (0.95 g) according to the procedure described for Example 131.

reactant | (5-bromo-2-fluorophenyl)acetaldehyde | 0.98 g | BrC=1C=CC(=C(C1)CC=O)F | C8H6BrFO
reactant | 2-methyl-5-(1-piperazinyl)quinoline | 0.51 g | CC1=NC2=CC=CC(=C2C=C1)N1CCNCC1 | C14H17N3
reactant | sodium triacetoxyborohydride | 0.95 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 5-{4-[2-(5-Bromo-2-fluorophenyl)ethyl]-1-piperazinyl}-2-methylquinoline | 95% yield | BrC=1C=CC(=C(C1)CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C)F | C22H23BrFN3
